US08048897B2
(3) Synthesis of 2-(4-Methoxybenzyl)-4-methylphenol
To a solution of (2-benzyloxy-5-methoxyphenyl)-(4-methoxyphenyl)-methanol (1.46 g, 4.3 mmol) in methanol (20 ml), a 20% palladium hydroxide catalyst (73 mg) was added and furthermore 36% HCl (0.1 mL) was added thereto. The mixture was stirred under a hydrogen atmosphere for 72 hours, and then the catalyst was filtered off. The solvent was distilled under reduced pressure, and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:4)] to obtain the title compound (0.8 g, 80%).

reactant | (2-benzyloxy-5-methoxyphenyl)-(4-methoxyphenyl)-methanol | 4.3 mmol, 1.46 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC)C(O)C1=CC=C(C=C1)OC | C22H22O4
reactant | HCl | 0.1 mL | Cl | ClH
reactant | methanol | 20 ml | CO | CH4O
catalyst | palladium hydroxide | 73 mg | [OH-].[Pd+2].[OH-]
product | 2-(4-Methoxybenzyl)-4-methylphenol | 0.8 g, 80% | COC1=CC=C(CC2=C(C=CC(=C2)C)O)C=C1 | C15H16O2
